US05589527
In a reaction vessel equipped with a stirrer, a cooling tube, a nitrogen introducing tube and a thermometer, 78.1 parts of 2-mercaptoethanol was charged, and 2-mercaptoethanol was diluted with 159.6 parts of MIBK. Then, 1.48 parts of sodium methoxide (28% solution in methanol) was added, and after heating to 50° C., 82.9 parts of butylene oxide was added dropwise with stirring over 3 hours in a dry nitrogen atmosphere. The reaction vessel was cooled and maintained at 50° C. 3 Hours after dropping, it was confirmed that an absorption of --SH (2540 cm-1) and an absorption of a glycidyl group (910 cm-1) are disappeared by the measurement of infrared spectra. Further, the reaction product had no mercapto-like odor. Thereafter, MIBK was removed under reduced pressure to give 1-(2-hydroxyethylthio)-2-butanol as a viscous liquid. Yield was 95% of the charge weight.

reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | sodium methoxide | C[O-].[Na+]
reactant | butylene oxide | C1CCCO1 | C4H8O
solvent | MIBK | CC(C)CC(=O)C | C6H12O
product | 1-(2-hydroxyethylthio)-2-butanol | Yield was 95% | OCCSCC(CC)O | C6H14O2S
